US08859777B2
Preparation N-{3-[4-Fluoro-1-(2-phenoxyethyl)piperidin-4-yl]phenyl}methane-sulfonamide Hydrochloride
The title compound was prepared from the reaction of 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride with methanesulfonyl chloride in the presence of excess diisopropylethylamine as described in Example 17. The desired material was obtained in 64% yield as an off-white solid.

reactant | 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride | Cl.Cl.NC=1C=C(C=CC1)C1(CCN(CC1)CCOC1=CC=CC=C1)F
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | N-{3-[4-Fluoro-1-(2-phenoxyethyl)piperidin-4-yl]phenyl}methane-sulfonamide Hydrochloride | 64% yield | Cl.FC1(CCN(CC1)CCOC1=CC=CC=C1)C=1C=C(C=CC1)NS(=O)(=O)C | InChI=1S/C20H25FN2O3S.ClH/c1-27(24,25)22-18-7-5-6-17(16-18)20(21)10-12-23(13-11-20)14-15-26-19-8-3-2-4-9-19;/h2-9,16,22H,10-15H2,1H3;1H
